US04107307
3-[(2-o-Propoxyphenyl-4-imidazolyl)methylene]carbazic acid ethyl ester
A 4.3 gm. portion of 2-o-propoxyphenyl-4-imidazolecarboxaldehyde and 1.98 gm. of ethyl carbazate are reacted as described in Example 32 giving the desired product, m.p. 129°-132°C.

reactant | 2-o-propoxyphenyl-4-imidazolecarboxaldehyde | C(CC)OC1=C(C=CC=C1)C=1NC=C(N1)C=O | C13H14N2O2
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
product | 3-[(2-o-Propoxyphenyl-4-imidazolyl)methylene]carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1)C1=C(C=CC=C1)OCCC)=O | C16H20N4O3
